US08633175B2
Step 2: 2-(4-Hydroxyphenyl)-1,3-thiazole-4-carboxamide
2-(4-Hydroxyphenyl)-1,3-thiazole-4-carboxylic acid (0.835 g, 3.77 mmol) was dissolved in 20 ml of dry tetrahydrofuran and cooled to 0° C. (Chloromethylene)dimethylammonium chloride (0.58 g, 4.53 mmol) was added in one portion. The mixture was stirred at 0° C. for 5 h. 28% Ammonium hydroxide aqueous solution (5 ml) was added, and the reaction mixture was stirred for 15 h at the room temperature. The organic solvent was removed in vacuo and the residue was partitioned between ethyl acetate and saturated sodium carbonate solution. The organic layer was separated and the aqueous phase was extracted twice with ethyl acetate. The combined extracts were washed with brine, dried over magnesium sulfate and concentrated in vacuo. The residue was purified by silica gel column chromatography (0 to 10% methanol in dichloromethane) to give the title compound as beige solid.

reactant | 2-(4-Hydroxyphenyl)-1,3-thiazole-4-carboxylic acid | 3.77 mmol, 0.835 g | OC1=CC=C(C=C1)C=1SC=C(N1)C(=O)O | C10H7NO3S
reactant | (Chloromethylene)dimethylammonium chloride | 4.53 mmol, 0.58 g | [Cl-].ClC=[N+](C)C
reactant | Ammonium hydroxide | 5 ml | [OH-].[NH4+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 2-(4-Hydroxyphenyl)-1,3-thiazole-4-carboxamide | OC1=CC=C(C=C1)C=1SC=C(N1)C(=O)N | C10H8N2O2S
